* C:\users\mahrufhossain\Documents\LTspice\open_loop_gain.asc
* Generated by LTspice 24.1.9 for Windows.
V1 Vcc 0 15V
V2 0 Vee 15V
R1 N001 0 3k
V3 P001 0 SINE(0 5uV 1k 0 0 0) AC 10uV 0
V4 Vin2 0 SINE(0 2uV 1k 0 0 0)
X§U2 0 Vin2 Vcc Vee N001 LM741
R2 Vin1 P001 600
.tran 0 1ms 0 10n
.lib LM741.lib
.backanno
.end
