* File: split_power_supply.lib
* Description: Ideal Split Power Supply Subcircuit
*
* .SUBCKT SPLIT_SUPPLY VPOS VNEG GND PARAMS: Vp=15V Vn=-15V
*
* VPOS: Positive output terminal
* VNEG: Negative output terminal
* GND: Common ground terminal
*
* Parameters:
* Vp: Desired positive voltage (default: 15V)
* Vn: Desired negative voltage (default: -15V)
*
* Example usage in a main netlist:
* X1 VCC_OUT VEE_OUT 0 SPLIT_SUPPLY PARAMS: Vp=12V Vn=-12V
* (where VCC_OUT, VEE_OUT are nodes in your main circuit, and 0 is ground)
*
.SUBCKT SPLIT_SUPPLY VPOS VNEG GND PARAMS: Vp=15V Vn=-15V

* Positive voltage source
V_POS VPOS GND DC {Vp}

* Negative voltage source
V_NEG VNEG GND DC {Vn}

.ENDS SPLIT_SUPPLY
