* C:\users\mahrufhossain\Documents\LTspice\transformers.asc
* Generated by LTspice 24.1.9 for Windows.
L1 0 In 1u
L2 0 out 9u
V1 In 0 SINE(0 1 1MEG) Rser=0.1
R1 out 0 1
* inductance ratio = (turn ratio)^2
* Transformers
* we need to include a mutual inductance statement
K L1 L2 1
* number of coupled inductors = number of mutual inductance statement
* instead of using one state ment each time like below:\nK1 L1 L2 1\nK2 L2 L3 1\nK3 L3 L1 1\n \nWe can write this in a single line like below:\nK1 L1 L2 L3 1\n \nHere, K is the mutual coupling coefficient
.tran 4us
.backanno
.end
