* Z:\home\mahrufhossain\maahisfolders\circuit_designs\LtSpice_Simulations\Voltage_Follwer_OpAmp\opamp_voltage_follower.asc
* Generated by LTspice 24.1.9 for Windows.
X§U1 vin vout vcc vee vout LM741
V1 0 vee 12V
V2 vcc 0 12V
V3 vin 0 SINE(0 50m 100)
R1 vout 0 80
* Voltage Follower
.tran 0 20ms 0 1ms
.wave "C:\\export.wav" 16 44.1k V(vout)
.lib LM741.lib
.backanno
.end
