* C:\users\mahrufhossain\Documents\LTspice\diff_amp.asc
* Generated by LTspice 24.1.9 for Windows.
V1 Vcc 0 12V
Q1 N001 N003 N004 0 NPN
Q2 N002 0 N004 0 NPN
R1 Vcc N001 6.2k
R2 Vcc N002 6.2k
R3 N004 Vee 5.6k
V2 N003 0 SINE(0 10m 1k)
V3 0 Vee 12V
.model NPN NPN
.model PNP PNP
.lib C:\users\mahrufhossain\AppData\Local\LTspice\lib\cmp\standard.bjt
.tran 0 1ms 0 100n
.backanno
.end
